US05545502
Into a 3 l round bottom flask, 176.5 g of tri-n-butylamine and 200 ml of methyl alcohol were charged and heated to 65° C. with stirring. Then, 134.1 g of p-methylbenzyl chloride was added thereto over a period of one hour. Then, this solution was stirred at 65° C. for 10 hours. The heating was stopped, and the solution was cooled to 30° C. Then, 1113 ml of water and 82.4 g of toluene were added thereto, and the mixture was stirred at 30° C. for 30 minutes. Then, the toluene layer was removed to obtain an aqueous solution of tri-n-butyl-p-methylbenzylammonium chloride. To this aqueous solution, 0.3 g of NaHCO3 was added to adjust the pH to 6.8.

reactant | tri-n-butylamine | 176.5 g | C(CCC)N(CCCC)CCCC | C12H27N
reactant | methyl alcohol | 200 ml | CO | CH4O
reactant | p-methylbenzyl chloride | 134.1 g | CC1=CC=C(CCl)C=C1 | C8H9Cl
reactant | water | 1113 ml | O | H2O
solvent | toluene | 82.4 g | C1(=CC=CC=C1)C | C7H8
product | tri-n-butyl-p-methylbenzylammonium chloride | [Cl-].C(CCC)[N+](CC1=CC=C(C=C1)C)(CCCC)CCCC | InChI=1S/C20H36N.ClH/c1-5-8-15-21(16-9-6-2,17-10-7-3)18-20-13-11-19(4)12-14-20;/h11-14H,5-10,15-18H2,1-4H3;1H/q+1;/p-1
